US06635640B2
2,4-Dimethyl-5-(2-oxo-4-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl) amide
A mixture of 4-pyridin-3-yl-1,3-dihydroindol-2-one (42 mg, 0.2 mmol), 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide (53 mg, 0.2 mmol) and piperidine (0.1 mL) in ethanol(1 mL) was heated in a sealed tube at 80° C. for 2 hours, heating was stopped and the tube was shaken at room temperature for 2 days. A small amount of water was added to the reaction and the solid which formed was collected by vacuum filtration, washed with water and dried to give the title compound.

reactant | 4-pyridin-3-yl-1,3-dihydroindol-2-one | 0.2 mmol, 42 mg | N1=CC(=CC=C1)C1=C2CC(NC2=CC=C1)=O | C13H10N2O
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-diethylaminoethyl)amide | 0.2 mmol, 53 mg | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=O)C)CC | C14H23N3O2
reactant | piperidine | 0.1 mL | N1CCCCC1 | C5H11N
reactant | water | O | H2O
solvent | ethanol | 1 mL | C(C)O | C2H6O
product | 2,4-Dimethyl-5-(2-oxo-4-pyridin-3-yl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (2-diethylaminoethyl) amide | C(C)N(CCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC=CC(=C12)C=1C=NC=CC1)=O)C)CC | C27H31N5O2
